US04470989
1.1 1-Carbethoxy-4-(2-nitro-4-chloroanilino)-piperidine
A mixture of 0.25 mole of ethyl 4-amino-1-piperidinecarboxylate, 0.3 mole of 1,4-dichloro-2-nitrobenzene, 0.3 mole of sodium carbonate, 0.2 g of potassium iodide and 160 ml of cyclohexanol was stirred at 150° C. for 40 hours. After the mixture had been cooled, toluene and water were added and the organic layer was separated off, washed three times with water, dried and evaporated. The oily residue was dissolved in hot diisopropyl ether and the solution was stirred under reflux with active charcoal, filtered and left to crystallize. Melting point: 116° C.

reactant | ethyl 4-amino-1-piperidinecarboxylate | 0.25 mole | NC1CCN(CC1)C(=O)OCC | C8H16N2O2
reactant | 1,4-dichloro-2-nitrobenzene | 0.3 mole | ClC1=C(C=C(C=C1)Cl)[N+](=O)[O-] | C6H3Cl2NO2
reactant | sodium carbonate | 0.3 mole | C([O-])([O-])=O.[Na+].[Na+]
reactant | potassium iodide | 0.2 g | [I-].[K+]
reactant | cyclohexanol | 160 ml | C1(CCCCC1)O | C6H12O
solvent | water | O | H2O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 1-Carbethoxy-4-(2-nitro-4-chloroanilino)-piperidine | C(=O)(OCC)N1CCC(CC1)NC1=C(C=C(C=C1)Cl)[N+](=O)[O-] | C14H18ClN3O4
